US05668158
To a solution of N-[[1-[[(1,1-dimethylethoxy)carbonyl]amino]-1-cyclopentyl]-carbonyl]-L-tyrosine methyl ester (3.50 g, 8.6 mmol) in dichloromethane (60 mL) and ethyl acetate (10 mL) is bubbled dry HCl gas for 15 minutes. The solvent is then removed under reduced pressure to give, as a foam, [[1-amino(1-cyclopentyl)]carbonyl]-L-tyrosine methyl ester hydrochloride.

reactant | N-[[1-[[(1,1-dimethylethoxy)carbonyl]amino]-1-cyclopentyl]-carbonyl]-L-tyrosine methyl ester | 8.6 mmol, 3.50 g | COC([C@@H](NC(=O)C1(CCCC1)NC(=O)OC(C)(C)C)CC1=CC=C(C=C1)O)=O | C21H30N2O6
reactant | HCl | Cl | ClH
solvent | dichloromethane | 60 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
product | [[1-amino(1-cyclopentyl)]carbonyl]-L-tyrosine methyl ester hydrochloride | Cl.COC([C@@H](NC(=O)C1(CCCC1)N)CC1=CC=C(C=C1)O)=O | InChI=1S/C16H22N2O4.ClH/c1-22-14(20)13(10-11-4-6-12(19)7-5-11)18-15(21)16(17)8-2-3-9-16;/h4-7,13,19H,2-3,8-10,17H2,1H3,(H,18,21);1H/t13-;/m0./s1
